US05610144
By proceeding in a fashion similar to that described in Example 9, but starting from 4.7 g of ethyl (2RS,5SR)-5-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}salicylate in solution in 80 cm3 of methanol and 1.04 g of potassium hydroxide dissolved in 40 cm3 of water and after treatment, 2.3 g of (2RS,5SR)-5-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}salicylic acid, melting at 190° C., are obtained.

reactant | ethyl (2RS,5SR)-5-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}salicylate | 4.7 g | C(C)(C)(C)OC(=O)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC1=CC=C(C(C(=O)OCC)=C1)O)=O)=O | C27H33N3O7
reactant | potassium hydroxide | 1.04 g | [OH-].[K+]
solvent | methanol | 80 cm3 | CO | CH4O
solvent | water | 40 cm3 | O | H2O
product | (2RS,5SR)-5-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}salicylic acid | 2.3 g | C(C)(C)(C)OC(=O)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC1=CC=C(C(C(=O)O)=C1)O)=O)=O | C25H29N3O7
